US05118827
To a solution of the allylalcohol which is 14-chloro-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-tetradecatetraen-1-ol (492 mg, 1.51 mmol) in methylene chloride (22 ml) is added powdered barium manganate (8.5 g) and the mixture is vigorously stirred under argon atmosphere. After 8 hours, disappearance of the starting compound is confirmed and the reaction mixture is filtered and washed. The filtrate and the washing liquid are combined and concentrated. The resulting residue is purified by silica gel column chromatography (n-nexane/ethyl acetate =15:1) to give the desired 14-chloro-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-tetradecatetraenal (468 mg, 95%).

reactant | allylalcohol | C(C=C)O | C3H6O
reactant | 14-chloro-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-tetradecatetraen-1-ol | 1.51 mmol, 492 mg | ClCC(=CCCC(=CCCC(=CC=C(CO)C(C)C)C)C)C | C20H33ClO
reactant | barium manganate | 8.5 g | [Mn](=O)(=O)([O-])[O-].[Ba+2]
solvent | methylene chloride | 22 ml | C(Cl)Cl | CH2Cl2
product | 14-chloro-2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-tetradecatetraenal | 468 mg, 95% | ClCC(=CCCC(=CCCC(=CC=C(C=O)C(C)C)C)C)C | C20H31ClO
